US04208514
To 200 ml of acetonitrile was added 24 g (0.1 mole) of 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide and 11.8 g of potassium t-butoxide. The mixture was heated to reflux, cooled to 50° C. and 12.6 g (0.114 mole) of methyl chlorothioformate in 100 ml of acetonitrile was added over a 0.5 hour period. The temperature was maintained at 50°-52 C. Stirring was continued at 50° C. overnight. The mixture was cooled, filtered, and the solvent removed from the filtrate in vacuo. The residual solid was washed with 3-50 ml-portions of methanol to afford 21.7 g of analytically pure S-methyl 3,4-dihydro-3-(1-methylethyl)-4-oxo-1H-2,1,3-benzothiadiazine-1-carbothioate-2,2-dioxide, m.p. 125°-127° C.

reactant | 3-(1-methylethyl)-1H-2,1,3-benzothiadiazin-4(3H)-one-2,2-dioxide | 0.1 mole, 24 g | CC(C)N1S(NC2=C(C1=O)C=CC=C2)(=O)=O | C10H12N2O3S
reactant | potassium t-butoxide | 11.8 g | CC(C)([O-])C.[K+]
reactant | methyl chlorothioformate | 0.114 mole, 12.6 g | ClC(=S)OC | C2H3ClOS
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | S-methyl 3,4-dihydro-3-(1-methylethyl)-4-oxo-1H-2,1,3-benzothiadiazine-1-carbothioate-2,2-dioxide | CC(C)N1S(N(C2=C(C1=O)C=CC=C2)C(SC)=O)(=O)=O | C12H14N2O4S2
